US05665718
33.67 g (105 mmol) of (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide were suspended in 140 ml of dioxan and 18 ml of pyridine and treated dropwise with 22.6 g (107.6 mmol) of trifluoroacetic anhydride at a temperature of <8° within 30 min. The mixture was stirred at 50° for 2.5 hours and poured into 700 ml of water. The suspension was filtered and, after drying the residue, there were obtained 28.62 g (90%) of (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile of m.p. 225°-228°.

reactant | (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide | 105 mmol, 33.67 g | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N)CC1)=O)F | C14H10ClFN4O2
reactant | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 107.6 mmol, 22.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 700 ml | O | H2O
solvent | dioxan | 140 ml | O1CCOCC1 | C4H8O2
product | (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile | 28.62 g, 90% | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C#N)CC1)=O)F | C14H8ClFN4O
